US04853386
6-[N-Cyclopentyl-N-(2,5-dimethylbenzyl)-amino]-9-[(2-hydroxyethoxy)-methyl]-purine hydrochloride
A mixture of 9.0 g. (27 mmole) 9-[(2-benzoyloxyethoxy)-methyl]-6-chloropurine, 16.5 g. (81 mmole) N-cyclopentyl-(2,5-dimethylbenzyl)-amine and 130 ml. butanol is heated under reflux for 16 hours. The reaction mixture is evaporated, the residue is taken up in dichloromethane, washed with dilute acetic acid and subsequently with water, dried over anhydrous sodium sulphate, evaporated, mixed with a solution of 3.3 g. sodium in 200 ml. methanol, heated under reflux for 3 hours, evaporated and the residue taken up in water, extracted with dichloromethane, dried over anhydrous sodium sulphate and evaporated. After chromatography on silica gel with an elution mixture of 95% dichloromethane and 5% methanol, there are obtained 8.0 g. of the title compound (75% of theory) in the form of an oily base, the hydrochloride of which, prepared in ethyl acetate, melts at 132°-135° C.

reactant | 9-[(2-benzoyloxyethoxy)-methyl]-6-chloropurine | 27 mmole | C(C1=CC=CC=C1)(=O)OCCOCN1C2=NC=NC(=C2N=C1)Cl | C15H13ClN4O3
reactant | N-cyclopentyl-(2,5-dimethylbenzyl)-amine | 81 mmole | C1(CCCC1)NCC1=C(C=CC(=C1)C)C | C14H21N
reactant | butanol | C(CCC)O | C4H10O
reactant | hydrochloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[N-Cyclopentyl-N-(2,5-dimethylbenzyl)-amino]-9-[(2-hydroxyethoxy)-methyl]-purine hydrochloride | 75% | Cl.C1(CCCC1)N(CC1=C(C=CC(=C1)C)C)C1=C2N=CN(C2=NC=N1)COCCO | InChI=1S/C22H29N5O2.ClH/c1-16-7-8-17(2)18(11-16)12-27(19-5-3-4-6-19)22-20-21(23-13-24-22)26(14-25-20)15-29-10-9-28;/h7-8,11,13-14,19,28H,3-6,9-10,12,15H2,1-2H3;1H
